US07847117B2
Synthesis of ethyl(methoxymethyl)trimethylsilanylmethylamine (Equimolar Reaction)
18.0 g (0.13 mol) of potassium carbonate, 121.8 g (3.80 mol) of methanol and 60.0 g (2.00 mol) of paraformaldehyde are initially charged and cooled to −5° C. At this temperature, within 30 min, 262.6 g (2.00 mol) of ethyltrimethylsilanylmethylamine are metered in. The biphasic reaction mixture is stirred at −5° C. for a further 1 h and then warmed to room temperature within 20 min. Within 1 min, 382 g of pentane are metered in. The biphasic reaction mixture is separated and the upper, organic phase is dried azeotropically for 2 h. The organic phase is concentrated and then fractionally distilled. Yield 228.5 g (71%) of a colorless liquid.

reactant | potassium carbonate | 0.13 mol, 18.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | methanol | 3.80 mol, 121.8 g | CO | CH4O
reactant | paraformaldehyde | 2.00 mol, 60.0 g | C=O | CH2O
reactant | ethyltrimethylsilanylmethylamine | 2.00 mol, 262.6 g | C(C)NC[Si](C)(C)C | C6H17NSi
solvent | pentane | 382 g | CCCCC | C5H12
product | ethyl(methoxymethyl)trimethylsilanylmethylamine | C(C)N(C[Si](C)(C)C)COC | C8H21NOSi
